US06906053B2
{4-[(2-methyl-4-quinolinyl)-methoxy]phenyl}acetic acid
To a solution of methyl (4-hydroxyphenyl)acetate (10.0 g, 60.2 mmol) in 400 mL THF was added 4-chloromethyl-2-methylquinoline (11.5 g, 60.2 mmol), cesium carbonate (29.4 g, 90.3 mmol), and sodium iodide (451 mg, 3 mmol). The reaction was heated to reflux for 72 hr, after which the reaction was extracted from sat KH2PO4 with EtOAc×3. The combined organic layers were dried with MgSO4, filtered, and concentrated. This residue was taken up in 200 mL MeOH and treated with 1 M NaOH (100 mL) for 16 hr. The reaction was treated with dilute KH2PO4 and EtOAc. A solid formed between the layers that was filtered through a sintered glass funnel and recrystallized from EtOH/water to give 14 g (76%) of the product acid. MS found: (M+H)=308.

reactant | methyl (4-hydroxyphenyl)acetate | 60.2 mmol, 10.0 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 4-chloromethyl-2-methylquinoline | 60.2 mmol, 11.5 g | ClCC1=CC(=NC2=CC=CC=C12)C | C11H10ClN
reactant | cesium carbonate | 90.3 mmol, 29.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
catalyst | sodium iodide | 3 mmol, 451 mg | [I-].[Na+]
product | {4-[(2-methyl-4-quinolinyl)-methoxy]phenyl}acetic acid | 14 g, 76% | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)CC(=O)O | C19H17NO3
